US03960911
7-Oxo-7-phenylheptanoylferrocene (1.94g; 5 mmole) was dissolved in 5% H2SO4 /acetic acid (40 ml; excess) at room temperature. The solution was stirred overnight and then poured into water (400 ml) and extracted with chloroform (3 × 200 ml). The organic layers were extracted with water, saturated aqueous sodium bicarbonate, and water, and dried (Na2SO4) to yield a brown oil. The crude product was suspended in hot petroleum ether (bp 40°-60°C) and filtered. The filtrate was submitted to preparative thin layer chromatography on silica. The main yellow band was eluted with petroleum ether/ethyl acetate (10:1) and gave 670 mg (36.2%) of pure 3-benzoyl-2-ferrocenylcyclohexene mp 127°-9°C.

reactant | 7-Oxo-7-phenylheptanoylferrocene | 5 mmole, 1.94g | O=C(CCCCCC(=O)[C-]1C=CC=C1)C1=CC=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | water | 400 ml | O | H2O
solvent | H2SO4 acetic acid | 40 ml | OS(=O)(=O)O.C(C)(=O)O
product | 3-benzoyl-2-ferrocenylcyclohexene | 670 mg, 36.2% | C(C1=CC=CC=C1)(=O)C1C(=CCCC1)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C18H17O.C5H5.Fe/c19-18(15-10-2-1-3-11-15)17-13-7-6-12-16(17)14-8-4-5-9-14;1-2-4-5-3-1;/h1-5,8-12,17H,6-7,13H2;1-5H;/q2*-1;+2
